US05132435
Preparation of 2-thienylacetaldoxime
A mixture of 168 g of 2-thienylcarboxaldehyde and 12.9 g of isopropyl chloroacetate is then introduced over 30 minutes. The solution is stirred for 25 minutes at this temperature and 257 g of an aqueous solution of sodium hydroxide at a concentration of 35% are then added over 30 minutes. The mixture is stirred at 50° C. for 2 hours, is cooled to 25° C. and 161.5 g of hydroxylamine hydrochloride dissolved in 200 ml of water are then introduced over 30 minutes. The mixture is kept stirred for 30 minutes and is then added to 1.5 l of water and 1.5 l of dichloromethane.

reactant | 2-thienylcarboxaldehyde | 168 g | C1=CSC(=C1)C=O | C5H4OS
reactant | isopropyl chloroacetate | 12.9 g | ClCC(=O)OC(C)C | C5H9ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 161.5 g | Cl.NO
solvent | water | 200 ml | O | H2O
solvent | water | 1.5 l | O | H2O
solvent | dichloromethane | 1.5 l | ClCCl | CH2Cl2
product | 2-thienylacetaldoxime | S1C(=CC=C1)CC=NO | C6H7NOS
